*model for MAX44285 family
*version 0: 9/2013
**************************************************************************************MAX44285L
.subckt MAX44285L RS1+ RS1- OUT1 RS2+ RS2- OUT2 VDD GND
X_1 RS1+ RS1- GND OUT1 VDD MAX44285a
X_2 RS2+ RS2- GND OUT2 VDD MAX44285a
.ends
******************************************************************
.subckt MAX44285a RS+ RS- GND OUT VDD
R+ RS+ ib+ 1g
R- RS- ib- 1g
Vi+ ib+ GND 0
Vi- ib- GND 0
GFi+ RS+ GND VALUE={-I(Vi+)+0.8u}
GFi- RS- GND VALUE={-I(Vi-)+1.2u}
Rs+ RS+ rsp 100
Cs+ rsp RS- 19.6n
Eo OUT2 GND VALUE={((V(rsp)-V(RS-))+(-10u+V(cmr)+V(psr)))*12.5}
Ell ll GND VALUE={0.013}
Ecmr cmr GND VALUE={(V(RS+)+V(RS-))/2*1.25e-7}
Epsr psr GND VALUE={V(VDD)*1.25e-6}
*Ecc VCC GND RS+ GND 1
Elim lim lim1 VDD GND 1
Elim1 lim1 GND VALUE={-0.01}
Dlim OUT lim DX1
Dlima ll OUT DX1
.MODEL DX1  D(n=0.001)
ICC VDD GND 900u
Ro OUT2 OUT1 0.1
D401 OUT1 IO1 DY
D402 IO2 OUT1 DY
D403 OUT IO1 DY
D404 IO2 OUT DY
I400 IO1 IO2 50m
.MODEL DY D(IS=100E-14 N=10M)
.ends
**************************************************************************************MAX44285T
.subckt MAX44285T RS1+ RS1- OUT1 RS2+ RS2- OUT2 VDD GND
X_1 RS1+ RS1- GND OUT1 VDD MAX44285b
X_2 RS2+ RS2- GND OUT2 VDD MAX44285b
.ends
******************************************************************
.subckt MAX44285b RS+ RS- GND OUT VDD
R+ RS+ ib+ 1g
R- RS- ib- 1g
Vi+ ib+ GND 0
Vi- ib- GND 0
GFi+ RS+ GND VALUE={-I(Vi+)+0.8u}
GFi- RS- GND VALUE={-I(Vi-)+1.2u}
Rs+ RS+ rsp 100
Cs+ rsp RS- 19.6n
Eo OUT2 GND VALUE={((V(rsp)-V(RS-))+(-10u+V(cmr)+V(psr)))*25}
Ell ll GND VALUE={0.013}
Ecmr cmr GND VALUE={(V(RS+)+V(RS-))/2*1.25e-7}
Epsr psr GND VALUE={V(VDD)*1.25e-6}
*Ecc VCC GND RS+ GND 1
Elim lim lim1 VDD GND 1
Elim1 lim1 GND VALUE={-0.01}
Dlim OUT lim DX1
Dlima ll OUT DX1
.MODEL DX1  D(n=0.001)
ICC VDD GND 900u
Ro OUT2 OUT1 0.1
D401 OUT1 IO1 DY
D402 IO2 OUT1 DY
D403 OUT IO1 DY
D404 IO2 OUT DY
I400 IO1 IO2 50m
.MODEL DY D(IS=100E-14 N=10M)
.ends
**************************************************************************************MAX44285F
.subckt MAX44285F RS1+ RS1- OUT1 RS2+ RS2- OUT2 VDD GND
X_1 RS1+ RS1- GND OUT1 VDD MAX44285c
X_2 RS2+ RS2- GND OUT2 VDD MAX44285c
.ends
******************************************************************
.subckt MAX44285c RS+ RS- GND OUT VDD
R+ RS+ ib+ 1g
R- RS- ib- 1g
Vi+ ib+ GND 0
Vi- ib- GND 0
GFi+ RS+ GND VALUE={-I(Vi+)+0.8u}
GFi- RS- GND VALUE={-I(Vi-)+1.2u}
Rs+ RS+ rsp 100
Cs+ rsp RS- 19.6n
Eo OUT2 GND VALUE={((V(rsp)-V(RS-))+(-10u+V(cmr)+V(psr)))*50}
Ell ll GND VALUE={0.013}
Ecmr cmr GND VALUE={(V(RS+)+V(RS-))/2*1.25e-7}
Epsr psr GND VALUE={V(VDD)*1.25e-6}
*Ecc VCC GND RS+ GND 1
Elim lim lim1 VDD GND 1
Elim1 lim1 GND VALUE={-0.01}
Dlim OUT lim DX1
Dlima ll OUT DX1
.MODEL DX1  D(n=0.001)
ICC VDD GND 900u
Ro OUT2 OUT1 0.1
D401 OUT1 IO1 DY
D402 IO2 OUT1 DY
D403 OUT IO1 DY
D404 IO2 OUT DY
I400 IO1 IO2 50m
.MODEL DY D(IS=100E-14 N=10M)
.ends
**************************************************************************************MAX44285H
.subckt MAX44285H RS1+ RS1- OUT1 RS2+ RS2- OUT2 VDD GND
X_1 RS1+ RS1- GND OUT1 VDD MAX44285d
X_2 RS2+ RS2- GND OUT2 VDD MAX44285d
.ends
******************************************************************
.subckt MAX44285d RS+ RS- GND OUT VDD
R+ RS+ ib+ 1g
R- RS- ib- 1g
Vi+ ib+ GND 0
Vi- ib- GND 0
GFi+ RS+ GND VALUE={-I(Vi+)+0.8u}
GFi- RS- GND VALUE={-I(Vi-)+1.2u}
Rs+ RS+ rsp 100
Cs+ rsp RS- 19.6n
Eo OUT2 GND VALUE={((V(rsp)-V(RS-))+(-10u+V(cmr)+V(psr)))*100}
Ell ll GND VALUE={0.013}
Ecmr cmr GND VALUE={(V(RS+)+V(RS-))/2*1.25e-7}
Epsr psr GND VALUE={V(VDD)*1.25e-6}
*Ecc VCC GND RS+ GND 1
Elim lim lim1 VDD GND 1
Elim1 lim1 GND VALUE={-0.01}
Dlim OUT lim DX1
Dlima ll OUT DX1
.MODEL DX1  D(n=0.001)
ICC VDD GND 900u
Ro OUT2 OUT1 0.1
D401 OUT1 IO1 DY
D402 IO2 OUT1 DY
D403 OUT IO1 DY
D404 IO2 OUT DY
I400 IO1 IO2 50m
.MODEL DY D(IS=100E-14 N=10M)
.ends